US05079363
In a similar manner but by refluxing 2-chloro 3-diisopropylaminocarbonyl pyridine and sodium methylate for 45 hours, 3-diisopropylaminocarbonyl 2-methoxy pyridine is obtained.

reactant | 2-chloro 3-diisopropylaminocarbonyl pyridine | ClC1=NC=CC=C1C(=O)N(C(C)C)C(C)C | C12H17ClN2O
reactant | sodium methylate | C[O-].[Na+]
product | 3-diisopropylaminocarbonyl 2-methoxy pyridine | Yield: 98% | C(C)(C)N(C(=O)C=1C(=NC=CC1)OC)C(C)C | C13H20N2O2
